.SUBCKT TLV431_TI A K Fdbk
V_V2         N59715 A 1.24
G_G4         K A TABLE { V(STAGE2, A) } 
+ ( (-10,0)(0,0)(15m,15m)(10,16m) )
R_R1         A STAGE1  1  
R_R2         A STAGE2  1  
C_C2         A STAGE1  159e-6  
C_C3         A STAGE2  80n  
G_G1         A STAGE1 Fdbk N59715 4
X_D1          A STAGE1 DC_1mV_1A_1V_1nA
G_G3         A STAGE2 STAGE1 A 1
X_D2          STAGE1 N59689 DC_1mV_1A_1V_1nA
X_D3          A K DC_1mV_1A_1V_1nA
V_V1         N59689 A 15m
*
.subckt DC_1mV_1A_1V_1nA A C
G1 A C TABLE { V(A, C) } ( (-1,-1n)(0,0)(1m,1) (2m,10) (3m,1000) )
.ends DC_1mV_1A_1V_1nA 
.ENDS TLV431_TI

